US08304557B2
6-(3-nitrophenoxy)imidazo[1,2-a]pyridin-2-amine
A mixture of 2-[2-{[(4-methylphenyl)sulfonyl]amino}-5-(3-nitrophenoxy)pyridin-1(2H)-yl]acetamide (4.70 g, 10.6 mmol), trifluoroacetic anhydride (30 mL) and dichloromethane (40 mL) was stirred at room temperature for 5 hr. The reaction solution was concentrated under reduced pressure, saturated aqueous sodium hydrogen carbonate solution was added to the residue and the mixture was extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, 8N aqueous sodium hydroxide solution (10 mL) and ethanol (30 mL) were added to the residue and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with water and extracted with ethyl acetate (×3). The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel, ethyl acetate) to give the title compound (1.40 g, 49%) as a white solid.

reactant | 2-[2-{[(4-methylphenyl)sulfonyl]amino}-5-(3-nitrophenoxy)pyridin-1(2H)-yl]acetamide | 10.6 mmol, 4.70 g | CC1=CC=C(C=C1)S(=O)(=O)NC1N(C=C(C=C1)OC1=CC(=CC=C1)[N+](=O)[O-])CC(=O)N | C20H20N4O6S
reactant | trifluoroacetic anhydride | 30 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 6-(3-nitrophenoxy)imidazo[1,2-a]pyridin-2-amine | 1.40 g, 49% | [N+](=O)([O-])C=1C=C(OC=2C=CC=3N(C2)C=C(N3)N)C=CC1 | C13H10N4O3
